Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[H:5].[O:1]=[C:2]=[C:3]([H:4])[O:6][C:7]([H:8])[C:9]([H:10])([H:11])[H:12]>>[O:1]=[C:2][C:3]([H:4])([H:5])[O:6][C:7]([H:8])[C:9]([H:10])([H:11])[H:12],-2.42811680502
[H:1][O:2]/[C:3]([H:4])=[C:5](\[H:6])[C@@:7]([H:8])([O:9][H:10])[C:11]([H:12])([H:13])[H:14]>>[C:11]([H:12])([H:13])[H:14].[H:1][O:2]/[C:3]([H:4])=[C:5](\[H:6])[C:7]([H:8])[O:9][H:10],3.2998675306800003
[C:5]([H:6])([H:7])[C:8](=[O:9])[H:10].[O:1][C:2]#[C:3][H:4]>>[O:1]=[C:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[C:8](=[O:9])[H:10],-3.80109043101
[H:1].[O:2][O:3][C@@:4]([H:5])([C:6][C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[H:14]>>[H:1][O:2][O:3][C@@:4]([H:5])([C:6][C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[H:14],-3.69222037786
[O:1][O:2][C:3]([H:4])[C:5]([H:6])([C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[H:14]>>[C:11]([H:12])([H:13])[H:14].[O:1][O:2]/[C:3]([H:4])=[C:5](\[H:6])[C:7]([H:8])([H:9])[H:10],2.32630772871
[O:1]=[C:2]([H:3])[C:4][C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14]>>[C:4][C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14].[O:1]=[C:2][H:3],3.86522823802
[H:1][C:2]([H:3])=[C:4][C:5]([H:6])([C:7]=[C:9]([H:10])[H:11])[C:12]([H:13])([H:14])[H:15].[H:8]>>[H:1][C:2]([H:3])=[C:4][C@:5]([H:6])([C:7]([H:8])=[C:9]([H:10])[H:11])[C:12]([H:13])([H:14])[H:15],-4.89102158868
[C:7](=[C:8]([H:9])[H:10])[C:11]([H:12])([H:13])[H:14].[O:1]=[C:2]([H:3])[C:4]([H:5])[H:6]>>[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[C:7](=[C:8]([H:9])[H:10])[C:11]([H:12])([H:13])[H:14],-3.96809592712
[C:1]([H:7])=[C:8]([H:9])[H:10].[C:2]([C:3](=[O:4])[H:5])#[C:6]>>[C:1]=[C:2]([C:3](=[O:4])[H:5])[C:6]([H:7])=[C:8]([H:9])[H:10],-4.05213818258
[H:10].[H:1][O:2][O:3][C@@:4]([H:5])([C:6]=[C:7]([H:8])[H:9])[C:11]([H:12])([H:13])[H:14]>>[H:1][O:2][O:3][C@@:4]([H:5])([C:6][C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[H:14],-1.98029113384
[C:5]([H:6])#[C:7][O:8].[O:1][C:2]#[C:3][H:4]>>[O:1]=[C:2]=[C:3]([H:4])[C:5]([H:6])=[C:7]=[O:8],-4.30488932002
[H:1][C:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[O:12][C:13]([H:14])([H:15])[H:16]>>[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[O:12][C:13]([H:14])([H:15])[H:16].[H:1][C:2]=[C:3]([H:4])[H:5],0.994861310201
[H:1][O:2][C:3]1[C:4]([H:5])([H:6])[C:7](=[C:9]([H:10])[H:11])[C:12]1([H:13])[H:14].[H:8]>>[H:1][O:2][C:3]1[C:4]([H:5])([H:6])[C:7]([H:8])([C:9]([H:10])[H:11])[C:12]1([H:13])[H:14],-1.8272745177400005
[H:1][C:2]([C:3]([H:4])([H:5])[H:6])[C:7]([C:8]([H:9])([H:10])[H:11])([C:12]([H:13])([H:14])[H:15])[C:16]([H:17])([H:18])[H:19]>>[C:7]([C:8]([H:9])([H:10])[H:11])([C:12]([H:13])([H:14])[H:15])[C:16]([H:17])([H:18])[H:19].[H:1][C:2][C:3]([H:4])([H:5])[H:6],4.49599251643
[H:1][C:2]=[C:3]([H:4])[H:5].[O:6][C:7]#[C:8][H:9]>>[H:1][C:2][C:3]([H:4])([H:5])[O:6][C:7]#[C:8][H:9],0.63231388703
[C:2]([O:3][H:4])[C:5]([H:6])([H:7])[H:8].[O:1]>>[O:1]=[C:2]([O:3][H:4])[C:5]([H:6])([H:7])[H:8],-7.74944151
[C:6]([H:7])[O:8][H:9].[H:1][O:2][C:3]#[C:4][H:5]>>[H:1][O:2][C:3]/[C:4]([H:5])=[C:6](\[H:7])[O:8][H:9],-3.08583870638
[H:1][C:2]([H:3])[O:4][C:5]([H:6])([H:7])[O:8][C:9]([H:10])[C:11]([H:12])([H:13])[H:14]>>[H:1][C:2][O:4][C:5]([H:6])([H:7])[O:8][C:9]([H:10])[C:11]([H:12])([H:13])[H:14].[H:3],3.99534696064
[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])[C:12]([H:13])([H:14])[H:15]>>[H:15].[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])=[C:12]([H:13])[H:14],1.92691762128
[O:1]=[C:2][C@@:3]([H:4])([O:5][H:6])[C:7]([H:8])([H:9])[H:10]>>[O:1]=[C:2]=[C:3]([H:4])[C:7]([H:8])([H:9])[H:10].[O:5][H:6],2.95058380217
[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])=[C:8]([C:10]([H:11])([H:12])[H:13])[C:14]([H:15])([H:16])[H:17].[H:9]>>[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])[C:8]([H:9])([C:10]([H:11])([H:12])[H:13])[C:14]([H:15])([H:16])[H:17],-1.74867922313
[H:1][C:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[C:8][C:9]([H:10])=[C:11]([H:12])[H:13]>>[C:3]([H:4])([C:5]([H:6])([H:7])[C:8])=[C:9][H:10].[H:1][C:2]=[C:11]([H:12])[H:13],4.64217031248
[H:10].[H:1][C:2]([H:3])([H:4])[O:5][C:6](=[C:7]([H:8])[H:9])[C:11]([H:12])([H:13])[C:14]([H:15])([H:16])[H:17]>>[H:1][C:2]([H:3])([H:4])[O:5][C:6]([C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[C:14]([H:15])([H:16])[H:17],-1.99946850617
[H:1][C:2]([H:3])([H:4])[O:5][C:6][C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13]>>[H:1][C:2]([H:3])([H:4])[O:5]/[C:6]=[C:7](\[H:8])[C:10]([H:11])([H:12])[H:13].[H:9],3.0740508882200004
[O:1]=[C:2]=[C:3][C:4][O:5][C:6]([H:7])[H:8]>>[C:6]([H:7])[H:8].[O:1][C:2]#[C:3][C:4][O:5],0.76203951225
[H:1][C:2]([H:3])=[C:5][C@:6]([H:7])([O:8][C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[H:16].[H:4]>>[H:1][C:2]([H:3])([H:4])[C:5][C@@:6]([H:7])([O:8][C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[H:16],-1.96807018952
[H:1][C:2]=[C:3]([O:4][H:5])[C:6]([H:7])([H:8])[C:9]([H:10])[O:11][H:12]>>[C:3]([O:4][H:5])[C:6]([H:7])([H:8])[C:9]([H:10])[O:11][H:12].[H:1][C:2],7.094063498
[H:1][C:2][O:3][C:4]([O:5][H:6])=[C:7]([H:8])[H:9]>>[H:1][C:2][O:3][C:4]=[C:7]([H:8])[H:9].[O:5][H:6],6.21333161691
